US06063789
n-Butyllithium (1.4 M in hexanes, 1.3 ml, 1.8 mmol) was added dropwise to a stirred solution of diisopropylamine (0.25 ml) in dry THF (16 ml) at -5-0° C. and the solution stirred for 30 min. The mixture was cooled to -78° C. and a solution of 3-cyanothiophene (0.20 g, 1.8 mmol) in THF (4 ml) added dropwise, followed by methyl iodide (0.23 ml, 0.35 g, 2.5 mmol) after min. The mixture was stirred for 20 min., warmed to room temperature over 30 min. and evaporated. Meanwhile n-butyllithium (1.4 M in hexanes, 1.31 ml) was added dropwise to a stirred solution of diisopropylamine (0.25 ml) in dry THF (16 ml) at -5-0° C. and the solution stirred for 30 min. The mixture was cooled to 78° C. and the crude 3-cyano-2-methylthiophene prepared above was added dropwise in THF (4 ml), followed by trimethylsilylchloride (0.43 ml) after 1 min. The mixture was stirred for 20 min., warmed to room temperature over 30 min. and evaporated to afford a yellow oil. Purification by flash chromatography on untreated neutral alumina, eluting with 5% diethyl ether in hexane, gave 3-cyano-2-methyl-5-trimethylsilylthiophene as a clear oil (0.20 g). M+ 195; 360 MHz 1H n.m.r (CDCl3) 7.19 (1H, s), 2.66 (3H, s), 0.31 (9H, s).

reactant | n-Butyllithium | 1.8 mmol, 1.4 M, 1.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-cyanothiophene | 1.8 mmol, 0.20 g | C(#N)C1=CSC=C1 | C5H3NS
reactant | methyl iodide | 2.5 mmol, 0.23 ml, 0.35 g | CI | CH3I
reactant | trimethylsilylchloride | 0.43 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-cyano-2-methyl-5-trimethylsilylthiophene | 0.20 g | C(#N)C1=C(SC(=C1)[Si](C)(C)C)C | C9H13NSSi
